US07687502B2
(6-Phenoxyquinazolin-4-yl)-pyrazin-2-yl-amine
The compound of Example 4 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, 2-amino-pyrazine and phenol.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 2-amino-pyrazine | NC1=NC=CN=C1 | C4H5N3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | (6-Phenoxyquinazolin-4-yl)-pyrazin-2-yl-amine | O(C1=CC=CC=C1)C=1C=C2C(=NC=NC2=CC1)NC1=NC=CN=C1 | C18H13N5O
